US08222248B2
To a stirred solution of 3-(4-formyl-3,5-dimethylphenyl)-propionic acid methyl ester, (2.2 g, 10 mmol) and ethane-1,2-diol (1.86 g, 30 mmol) in toluene (50 mL) was added p-TsOH.H2O (38 mg, 0.2 mmol) and the solution was refluxed using a Dean-Stark apparatus overnight. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using heptane/EtOAc (5:1) as eluent to give 3-(4-[1,3]dioxolan-2-yl-3,5-dimethylphenyl)-propionic acid methyl ester as a colorless oil.

reactant | 3-(4-formyl-3,5-dimethylphenyl)-propionic acid methyl ester | 10 mmol, 2.2 g | COC(CCC1=CC(=C(C(=C1)C)C=O)C)=O | C13H16O3
reactant | ethane-1,2-diol | 30 mmol, 1.86 g | C(CO)O | C2H6O2
reactant | p-TsOH.H2O | 0.2 mmol, 38 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-[1,3]dioxolan-2-yl-3,5-dimethylphenyl)-propionic acid methyl ester | COC(CCC1=CC(=C(C(=C1)C)C1OCCO1)C)=O | C15H20O4
